US06972288B1
4-[(3-Chloro-4-fluoro-phenyl)amino]-6-({4-[2-(ethoxycarbonyl)-4-(methylcarbonyl)-piperazin-1-yl]-1-oxo-2-buten-1-yl}amino)-7-cyclopropylmethoxy-quinazoline
0.12 ml of acetic acid anhydride are added dropwise to a mixture of 500 mg of 4-[(3-chloro-4-fluoro-phenyl)amino]-6-({4-[2-(ethoxycarbonyl)-piperazin-1-yl]-1-oxo-2-buten-1-yl}amino)-7-cyclopropylmethoxy-quinazoline and 0.18 ml of triethylamine in 5 ml of methylene chloride at 0° C. The reaction mixture is stirred for one hour at 0° C. followed by one hour at room temperature, washed with water, concentrated sodium chloride solution, dried over magnesium sulfate, and concentrated in vacuo. The crude product is purified by column chromatography on silica gel with ethyl acetate/methanol (98:2 to 95:5). Yield: 291 mg (54% of theory), Melting point: 152-156° C. Mass spectrum (ESI+): m/z=625, 627 [M+H]+

reactant | acetic acid anhydride | 0.12 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-[(3-chloro-4-fluoro-phenyl)amino]-6-({4-[2-(ethoxycarbonyl)-piperazin-1-yl]-1-oxo-2-buten-1-yl}amino)-7-cyclopropylmethoxy-quinazoline | 500 mg | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)NC(C=CCN1C(CNCC1)C(=O)OCC)=O)OCC1CC1 | C29H32ClFN6O4
reactant | triethylamine | 0.18 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 4-[(3-Chloro-4-fluoro-phenyl)amino]-6-({4-[2-(ethoxycarbonyl)-4-(methylcarbonyl)-piperazin-1-yl]-1-oxo-2-buten-1-yl}amino)-7-cyclopropylmethoxy-quinazoline | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)NC(C=CCN1C(CN(CC1)C(=O)C)C(=O)OCC)=O)OCC1CC1 | C31H34ClFN6O5
